US04410354
Embodiment XXXIII--2-Methyl-2-((phenylmethoxy)methyl)-1,6-dioxaspiro[4.4]nonane
A solution of 1.70 g of 2-methyl-1,6-dioxaspiro[4.4]nonane-2-methanol in 20 ml of dimethylformamide was treated sequentially with 0.60 g of 60% sodium hydride-mineral oil dispersion at 15°-25° C. for 1 hour and then with 1.71 g of benzyl bromide at 0°-25° C. for 1 hour. The resulting mixture was poured into 150 ml of water and extracted with diethyl ether. The ether extract was washed with water, dried and distilled to yield 1.40 g of the desired product as a colorless liquid, b.p. 105°-110° C. (0.3 torr.).

reactant | 2-methyl-1,6-dioxaspiro[4.4]nonane-2-methanol | 1.70 g | CC1(OC2(CC1)OCCC2)CO | C9H16O3
reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | benzyl bromide | 1.71 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-2-((phenylmethoxy)methyl)-1,6-dioxaspiro[4.4]nonane | 1.40 g | CC1(OC2(CC1)OCCC2)COCC2=CC=CC=C2 | C16H22O3
